US09023865B2
(2R,3R,4S)+(2S,3S,4R)-1,2-dimethyl-3-nitro-4-(o-tolyl) pyrrolidine (28 mg, 0.12 mmol) was dissolved in 1 ml MeOH and Acetic Acid (2.0 ml) and charged with ZINC (39.1 mg, 0.598 mmol). The reaction was allowed to stir overnight at rt. The solution was filtered through celite and concentrated in vacuo. The residue was dissolved in 2 mL MeOH and desalted on ps-bicarb. The solvents were removed in vacuo to afford (2R,3R,4S)+(2S,3S,4R)-1,2-dimethyl-4-(o-tolyl)pyrrolidin-3-amine (17 mg, 0.08 mmol, 70% yield). LC/MS M+H 205.2

reactant | (2S,3S,4R)-1,2-dimethyl-3-nitro-4-(o-tolyl) pyrrolidine | 0.12 mmol, 28 mg | CN1[C@H]([C@H]([C@@H](C1)C1=C(C=CC=C1)C)[N+](=O)[O-])C | C13H18N2O2
reactant | Acetic Acid | 2.0 ml | C(C)(=O)O | C2H4O2
solvent | MeOH | 1 ml | CO | CH4O
catalyst | ZINC | 0.598 mmol, 39.1 mg | [Zn] | Zn
product | (2S,3S,4R)-1,2-dimethyl-4-(o-tolyl)pyrrolidin-3-amine | 0.08 mmol, 17 mg, 70% yield | CN1[C@H]([C@H]([C@@H](C1)C1=C(C=CC=C1)C)N)C | C13H20N2
